US06710041B2
9-(4-Methylpiperazin-1-yl) Pyrolo [2,1-b][1,3]benzothiazepine (1) (ST1899)
A solution of 9,10-dihydropyrrolo[2,1-b][1,3]benzothiazepin-9-one (0.24 g, 1.11 mmol), N-methylpiperazine (0.55 mL, 0.50 g, 4.99 mmol) and trimethylsilyl triflate (0.55 mL, 0.68 g, 3.05 mmol) was heated at 120° C. under stirring, after a few minutes further 0.55 mL of N-methylpiperazine were added and the reaction was kept for 3 hours at 120° C. After that time water was added and was extracted with dichloromethane. The organic layer was dried over sodium sulphate, filtered and evaporated to give the crude product that was purified by means of a flash chromatography (20% methanol in ethyl acetate) to afford 0.114 g of the pure title compound as a yellowish solid (84% yield).

reactant | 9,10-dihydropyrrolo[2,1-b][1,3]benzothiazepin-9-one | 1.11 mmol, 0.24 g | C1=CC=C2SC3=C(C(CN21)=O)C=CC=C3 | C12H9NOS
reactant | N-methylpiperazine | 4.99 mmol, 0.55 mL, 0.50 g | CN1CCNCC1 | C5H12N2
reactant | trimethylsilyl triflate | 3.05 mmol, 0.55 mL, 0.68 g | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | N-methylpiperazine | 0.55 mL | CN1CCNCC1 | C5H12N2
solvent | water | O | H2O
product | 9-(4-Methylpiperazin-1-yl) Pyrolo [2,1-b][1,3]benzothiazepine | 0.114 g, 84% yield | CN1CCN(CC1)C1=CN2C(SC3=C1C=CC=C3)=CC=C2 | C17H19N3S
